US07465815B2
Hydroxy(4-isopropylphenyl)acetic acid
To a mixture of lithium chloride (17.0 g, 418 mmol), potassium hydroxide (44.9 g, 800 mmol) and ice (150 g) was added a solution of bromoform (17.5 mL, 200 mmol) and 4-isopropyl benzaldehyde (30.3 mL, 200 mmol) in 1,4-dioxane (150 mL) at 0° C., and the mixture was stirred at 5-10° C. for 24 hours and then stirred at 35° C. for 24 hours. The aqueous layer was acidified with hydrochloric acid and was extracted with ethyl acetate. The extract was washed with water and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was crystallized from hexane-ethyl acetate to obtain 28.5 g (yield 73%) of the title compound. Melting point: 156-157° C.

reactant | lithium chloride | 418 mmol, 17.0 g | [Cl-].[Li+]
reactant | potassium hydroxide | 800 mmol, 44.9 g | [OH-].[K+]
reactant | bromoform | 200 mmol, 17.5 mL | C(Br)(Br)Br | CHBr3
reactant | 4-isopropyl benzaldehyde | 200 mmol, 30.3 mL | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | Hydroxy(4-isopropylphenyl)acetic acid | 28.5 g, yield 73% | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
